* ECC83/12AX7 long-tail-pair phase inverter matching core/src/circuit/triode.rs.
* Run with: ngspice -b long_tail_pair_12ax7.cir

.param BRAW=300

VRAW bplus 0 DC {BRAW}

VIN in 0 SIN(0 20m 1k)
CINA in grida 47n
RGRIDA grida 0 1Meg

VINB inb 0 DC 0
CINB inb gridb 47n
RGRIDB gridb 0 1Meg

RPLATEA bplus platea 100k
RPLATEB bplus plateb 82k
RTAIL cath 0 10k
XTRIODEA platea grida cath 12AX7_KOREN
XTRIODEB plateb gridb cath 12AX7_KOREN

.save v(in) v(grida) v(gridb) v(platea) v(plateb) v(cath) v(bplus) i(VRAW)

.control
set filetype=ascii
op
print v(platea) v(plateb) v(cath) v(grida) v(gridb) v(bplus)
tran 1u 100m 0 1u
wrdata /tmp/voxbox_long_tail_pair_12ax7.dat v(in) v(grida) v(gridb) v(platea) v(plateb) v(cath) v(bplus)
quit
.endc

* Koren-style triode approximation shared by the circuit fixtures.
.subckt 12AX7_KOREN P G K
.param MU=100 EX=1.4 KG1=1060 KP=600 KVB=300
E1 n1 0 VALUE={ln(1 + exp(KP * (1 / MU + V(G,K) / max(V(P,K), 1)))) / KP}
G1 P K VALUE={(V(P,K) / KG1) * pow(max(V(n1), 0), EX) * sqrt(max(V(P,K), 0) / KVB)}
Cpk P K 1.7p
Cgp G P 1.6p
Cgk G K 1.6p
.ends 12AX7_KOREN

.end
